US08404719B2
To Ethyl 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoate (1.0 g, 3.32 mmol) in N,N-dimethylacetamide (5 mL) was added 2-fluoroaniline (1.48 g, 13.28 mmol) dropwise over 30 seconds at room temperature. The mixture was stirred at room temperature for 2 hours, and then it was diluted with ethyl acetate (33 mL). The organic solution was washed with 1 N HCl (2×13 mL) and saturated NaCl (13 mL). The organic layer was concentrated, ethanol (8 mL) was added, and the mixture concentrated to give ethyl 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate.

reactant | Ethyl 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoate | 3.32 mmol, 1.0 g | ClC1=C(C(=O)OCC)C=C(C(=C1)F)S(=O)(=O)Cl | C9H7Cl2FO4S
reactant | 2-fluoroaniline | 13.28 mmol, 1.48 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 33 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate | ClC1=C(C(=O)OCC)C=C(C(=C1)F)S(=O)(=O)NC1=C(C=CC=C1)F | C15H12ClF2NO4S
